US09056873B2
A solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (200 mg, 0.399 mmol), 2-(tributylstannyl)thieno[3,2-c]pyridine (339 mg, 0.798 mmol) and tetrakis(triphenylphosphine)palladium(0) (461 mg, 0.399 mmol) in toluene (3 mL) was heated to 120° C. via microwave irradiation for 30 minutes. After the solvent was removed, the crude product was purified by silica gel column chromatography, eluting with a gradient of 10-50% EtOAc and hexane over a period of 60 minutes. The fractions were collected to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-3-oxo-4-(thieno[3,2-c]pyridin-2-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was first dissolved in DCM (3 mL) and then TFA/DCM (1:1, 10 mL) at 60° C. for 1 hour. After removal of solvent, the resulting crude material was reconstituted in MeOH/DMF/DCM (30.0 mL) and purified via preparative mass triggered LCMS, eluting with a gradient of 30-40% ACN (0.035% TFA) and H2O (0.05% TFA). The collected fractions were combined and the ACN was removed via rotary evaporation. The mixture was neutralized with saturated aqueous NaHCO3, washed with EtOAc (2×300 mL), dried over Na2SO4, and filtered. The organic phase was stripped to dryness via rotary evaporation to give the title compound (30 mg, 19%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.44-2.10 (m, 8H), 3.82 (br s, 1H), 4.33 (d, J=3.54 Hz, 1H), 4.47 (s, 2H), 7.30 (d, J=6.06 Hz, 1H), 7.89 (br s, 2H), 8.39 (d, J=5.05 Hz, 1H), 8.57 (s, 1H), 8.77 (s, 1H), 9.44 (s, 1H), 9.71 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H20FN5OS, 398. found, 398.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.399 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 2-(tributylstannyl)thieno[3,2-c]pyridine | 0.798 mmol, 339 mg | C(CCC)[Sn](C1=CC=2C=NC=CC2S1)(CCCC)CCCC
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.399 mmol, 461 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-7-fluoro-3-oxo-4-(thieno[3,2-c]pyridin-2-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=3C=NC=CC3S1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H36FN5O5S
